US07517873B2
To a mixture of 0.096 g (0.0004 mole) of 2-chloro-9-isopropyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-43), 1 mL of N,N-dimethylacetamide and 0.037 mL (0.0006 mole) of iodomethane at 0 degrees was added 0.024 g (0.0006 mole) of 60% sodium hydride in oil. The mixture was stirred at ambient temperature for 1 hour, then 20 mL of water was added. The precipitate was collected by filtration to give 0.088 g of 2-chloro-9-isopropyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-43) as an yellow solid.

reactant | 2-chloro-9-isopropyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0004 mole, 0.096 g | ClC=1N=CC2=C(N(CCC(N2)=O)C(C)C)N1 | C10H13ClN4O
reactant | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
reactant | iodomethane | 0.0006 mole, 0.037 mL | IC | CH3I
reactant | sodium hydride | 0.0006 mole, 0.024 g | [H-].[Na+]
solvent | water | 20 mL | O | H2O
product | 2-chloro-9-isopropyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.088 g | ClC=1N=CC2=C(N(CCC(N2C)=O)C(C)C)N1 | C11H15ClN4O
